US07012089B2
2,3,4,5,9,10,11,12-Octahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole
To a solution of 3-methyl-2,3,4,5,9,10,11,12-octahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole (0.20 g, 0.79 mmole) in dichloroethane (15 mL) was added 1-chloroethyl chloroformate (0.80 mL, 7.2 mmole) and the solution refluxed for 24 hours under nitrogen. The reaction mixture was cooled to room temperature and the solvent removed in vacuo and replaced with methanol (100 mL) and refluxed for another 3 hours under nitrogen. The solvent was removed in vacuo and the residue purified by flash column chromatography (silica gel, 1.5% methanol in dichloromethane) to provide 0.10 g of the title compound as a light yellow oil. The oil was further treated with one equivalent of fumaric acid in ethanol, the resulting solid collected by filtration and washed with ether to give 0.12 g of a fumarate salt, mp 174-176° C. MS (ESI) m/z 241 ([M+H]+).

reactant | 3-methyl-2,3,4,5,9,10,11,12-octahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole | 0.79 mmole, 0.20 g | CN1CCN2C3=C(C=CC=C3C=3CCCCC23)CC1 | C17H22N2
reactant | 1-chloroethyl chloroformate | 7.2 mmole, 0.80 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | 2,3,4,5,9,10,11,12-Octahydro-1H-[1,4]diazocino[7,8,1-jk]carbazole | 0.10 g | C1CNCCC=2C=CC=C3C=4CCCCC4N1C23 | C16H20N2
